### PR TITLE
add foldl/map Monoid Homomorphisms

### PR DESCRIPTION
**Pull request by eiais**
foldl is a monoid homomorphism from List A to any monoid on A

### CODE REVIEW

File: Cubical/Algebra/Monoid/Instances/List.agda [hunk 1]
```diff
@@ -14,3 +15,46 @@ MonoidStr.ε (snd (ListMonoid _)) = []
 MonoidStr._·_ (snd (ListMonoid _)) = _++_
 MonoidStr.isMonoid (snd (ListMonoid (_ , pf))) = makeIsMonoid (isOfHLevelList 0 pf)
                                     (λ x y z → sym (++-assoc x y z)) ++-unit-r (λ _ → refl)
+
+foldlMonHom : (M : Monoid ℓ-zero) → MonoidHom (ListMonoid (fst M , MonoidStr.is-set (snd M))) M
```
Comment (mortberg) [inline Cubical/Algebra/Monoid/Instances/List.agda]: Why is this only for level zero? Can't it be universe polymorphic?

Comment (mortberg) [reply Cubical/Algebra/Monoid/Instances/List.agda]: Also, why decompose M? Shouldn't `ListMonoid M` work?

File: Cubical/Algebra/Monoid/Instances/List.agda [hunk 2]
```diff
@@ -14,3 +15,46 @@ MonoidStr.ε (snd (ListMonoid _)) = []
...
+                                          ≡⟨ sym (fnCons x (xs ++ ys)) ⟩
+                                        x ∙m (fn (xs ++ ys))
+                                          ≡⟨ cong (x ∙m_) (respects∙ xs ys) ⟩
+                                        x ∙m ((fn xs) ∙m (fn ys))
+                                          ≡⟨ MonoidStr.·Assoc (snd m) x (fn xs) (fn ys) ⟩
+                                        (x ∙m (fn xs)) ∙m (fn ys)
+                                          ≡⟨ cong (_∙m (fn ys)) (fnCons x xs) ⟩
+                                        (fn (x ∷ xs)) ∙m (fn ys) ∎
+
+mapMonHom : (A B : Σ Type isSet) → (f : (fst A) → (fst B)) → MonoidHom (ListMonoid A) (ListMonoid B)
```
Comment (mortberg) [inline Cubical/Algebra/Monoid/Instances/List.agda]: Please use `hSet` instead of `Σ Type isSet`

**Review by mortberg — CHANGES_REQUESTED** [review]
Thanks a lot. I have a few small comments before this can be merged

File: Cubical/Algebra/Monoid/Instances/List.agda (hunk 1 above)
Comment (eiais) [reply Cubical/Algebra/Monoid/Instances/List.agda]: Made it universe polymorphic :). I dont think ```ListMonoid M``` works because I only need fact that it's a set from the structure.

Comment (mortberg) [reply Cubical/Algebra/Monoid/Instances/List.agda]: Ah, of course!
